US08071768B2
4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-phenoxy-phenyl)-amide
A solution of 6,7-dimethoxy-4-piperidin-4-yl-quinazoline (20 mg, 0.0733 mmol), as prepared in Example 1d, in DMF (1 mL) was treated with 4-phenoxyphenyl isocyanate (23 mg, 0.109 mmol) at RT overnight. The reaction was then partitioned between EtOAc (10 mL) and H2O (10 mL). The organic phase was dried over Na2SO4 and concentrated in vacuo. Purification by prep tlc (1:9 MeOH/DCM) afforded the title compound as a brown solid (15.7 mg, 44%). 1H NMR (300 MHz, CDCl3) δ 9.10 (s, 1H), 7.48 (m, 1H), 7.33 (m, 5H), 7.07 (m, 1H), 6.99 (m, 4H), 6.41 (br s, NH), 4.32-4.27 (m, 2H), 4.09 (s, 6H), 3.63 (m, 1H), 3.20 (m, 2H), 2.17 (m, 2H), 2.03-1.99 (m, 2H); LC/MS (ESI) calcd mass 484.2, found 485.3 [M+1]+.

reactant | 6,7-dimethoxy-4-piperidin-4-yl-quinazoline | 0.0733 mmol, 20 mg | COC=1C=C2C(=NC=NC2=CC1OC)C1CCNCC1 | C15H19N3O2
reactant | 4-phenoxyphenyl isocyanate | 0.109 mmol, 23 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(6,7-Dimethoxy-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-phenoxy-phenyl)-amide | 15.7 mg, 44% | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)OC)OC | C28H28N4O4
